US05597922
An adaptation of the method of Burrell et al., J. Chem. Soc. Perkin I. 2707 (1973), was used. A mixture of 1,2-phenylenediamine (324 mg, 3.00 mmol; Aldrich Co.) and ethyl thiooxamate (400 mg, 3.00 mmol; Aldrich Co.) in 7.5 mL of ethanol was heated to reflux. The resulting solution was stirred under reflux for 3 h. The resulting suspension was cool to 25° C. A pale yellow precipitate appeared. The mixture was vacuum filtered and the solid was washed with EtOH (5×2 mL) and dried in vacuum at 60° C. overnight to yield 85 mg (18%) of 3-aminoquinoxalin-2(1H)-one as a pale yellow solid (McKillop et al., Tetrahedron Lett. 23:3357 (1982)): mp dec.>320° C. 1H NMR (300 MHz, DMSO-d6) δ 7.261-7.075 (m, 4H, H-5+H-6+H-7+H-8). LRMS: 161 (M+, 100%), 133 (50%).

reactant | 1,2-phenylenediamine | 3.00 mmol, 324 mg | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ethyl thiooxamate | 3.00 mmol, 400 mg | C(C(=O)N)(=S)OCC | C4H7NO2S
solvent | ethanol | 7.5 mL | C(C)O | C2H6O
product | 3-aminoquinoxalin-2(1H)-one | 85 mg, 18% | NC=1C(NC2=CC=CC=C2N1)=O | C8H7N3O
